US05707931
6-Chloro-4-propargylamino-3-propionyl-8-trifluoromethyl-2-quinolinone (44)
6-Chloro-4-methylsulfoxy-3-propionyl-8-trifluoromethyl-2-quinolinone (365 mg, 1 mmol) and propargylamine (55 mg, 1 mmol) were used and the reaction was carried out as in the above process of example 1 to obtain the desired product (310 mg, yield: 87%).

reactant | 6-Chloro-4-methylsulfoxy-3-propionyl-8-trifluoromethyl-2-quinolinone | 1 mmol, 365 mg | ClC=1C(=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(CC)=O)C)OS(=O)(=O)O | C14H11ClF3NO6S
reactant | propargylamine | 1 mmol, 55 mg | C(C#C)N | C3H5N
product | 6-Chloro-4-propargylamino-3-propionyl-8-trifluoromethyl-2-quinolinone | 310 mg, yield: 87% | ClC=1C=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(CC)=O)NCC#C | C16H12ClF3N2O2
